US08232278B2
Synthesis of 2-amino-4-morpholino-6-(2-bromo-phenyl)-pyrido[3,2-d]pyrimidine
A solution of 2-amino-4-morpholino-6-chloro-pyrido[3,2-d]pyrimidine (265 mg, 1 mmol), potassium carbonate (690 mg, 5 mmol), tetrakis(triphenylphosphine)palladium(0) (100 mg) in dioxane (10 ml) and water (3 ml) was refluxed. To this refluxing solution was added dropwise (with a speed of 0.25 ml/min) a solution of 2-bromo-phenyl boronic acid (220 mg, 1.1 mmol) in dioxane (2 ml). Once the addition was complete, the reaction mixture was refluxed for another 2 hours. The reaction mixture was cooled down and the solvents were evaporated in vacuo. The residue was redissolved in dichloromethane and extracted with water. The combined organic layers were dried over Na2SO4 and the crude residue was purified by preparative TLC on silica, using a methanol/dichloromethane mixture in a ratio of 10:90 as mobile phase, yielding the pure title compound (100 mg, yield: 30%) which was characterised as follows: MS (m/z): 386, 388 ([M+H]+, 100).

reactant | 2-amino-4-morpholino-6-chloro-pyrido[3,2-d]pyrimidine | 1 mmol, 265 mg | NC=1N=C(C2=C(N1)C=CC(=N2)Cl)N2CCOCC2 | C11H12ClN5O
reactant | potassium carbonate | 5 mmol, 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-phenyl boronic acid | 1.1 mmol, 220 mg | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-4-morpholino-6-(2-bromo-phenyl)-pyrido[3,2-d]pyrimidine | 100 mg, yield: 30% | NC=1N=C(C2=C(N1)C=CC(=N2)C2=C(C=CC=C2)Br)N2CCOCC2 | C17H16BrN5O
